Derivative
* ---------------------------------------------------------------------------------
* Derivative subcircuit for solution of systems of nonlinear differential equations

.SUBCKT Derivative Yi Yi_prime
CC	Yi	int	1F
VV	int	0	0V
FIv	0	Yi	VV	1
HIv	Yi_prime	0	VV	1
.ENDS