Variable
* ------------------------------------------------------------------
* Variable subcircuit for solution of nonlinear systems of equations

.SUBCKT Variable Yi
RR	Yi	int	1ohm
VV	int	0	0V
FIv	0	Yi	VV	1
.ENDS